.subckt LM324 INP INM VCC VEE OUT
Rin INP INM 10Meg
Rip INP GND 1000Meg
Rim INM GND 1000Meg
Eout EOUT GND INP INM 100k
Rser EOUT OUT 100
Rvcc VCC GND 1000Meg
Rvee VEE GND 1000Meg
.ends LM324